US07504517B2
Preparation of N1-[2-(4-methoxyphenyl)ethyl]-1-(4-methoxyphenyl)-1,2-ethanediamine:
The crude (4-methoxyphenyl)-[2-(4-methoxyphenyl)ethylamino]-acetonitrile obtained in the above procedure is dissolved in diethyl ether (20 mL) and this solution is slowly added to an ice-cold solution of lithium aluminum hydride (1.0M, 16 mL, 16 mmol) in diethyl ether. The cooling bath is removed and the solution is allowed to stir for 1 hour. The reaction solution is then re-cooled to 5° C. and water (4 mL) is added, followed by 3N NaOH (3 mL). The ether is then decanted from the resulting solid and the solid is again washed with diethyl ether (20 mL). The combined ether washings are dried (Na2SO4) and concentrated in vacuo to afford 2.5 g (quantitative yield) of the desired compound. MS (301) (MH+).

reactant | (4-methoxyphenyl)-[2-(4-methoxyphenyl)ethylamino]-acetonitrile | COC1=CC=C(C=C1)C(C#N)NCCC1=CC=C(C=C1)OC | C18H20N2O2
reactant | lithium aluminum hydride | 16 mmol, 1.0M, 16 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | N1-[2-(4-methoxyphenyl)ethyl]-1-(4-methoxyphenyl)-1,2-ethanediamine | 2.5 g, quantitative yield | COC1=CC=C(C=C1)CCNC(CN)C1=CC=C(C=C1)OC | C18H24N2O2
